* Copyright © Linear Technology Corp. 1998, 1999, 2000, 2001, 2002, 2003, 2004, 2005.  All rights reserved.
*
.subckt LT1573 1 2 3 4 5 6 7 8
C2 1 4 1p
Q1 N007 8 N017 0 NA
Q2 8 1 N015 0 FB
Q3 N005 N006 N015 0 FB
Q4 N005 N005 6 0 P
Q5 8 N005 6 0 P
R3 6 N006 100K
D1 N006 4 BG
R4 3 4 20K
A1 3 4 4 4 4 N016 N011 4 SCHMITT Vt=1.3 Vh=10m Trise=1u
G1 N015 4 N018 4 .75m
G2 4 N004 N002 4 Table(18m 1m 50m 2m .1 3.5m .2 6m .3 8.5m)
R9 N004 4 100
A2 N004 5 6 6 6 6 N003 6 SCHMITT Vt=10m Vh=1m Vhigh=0 Vlow=-1 Trise=1u
Q6 N029 N003 N022 0 P
R11 6 N022 11K
Q7 2 N028 4 0 N
R12 N029 N028 1K
Q8 N029 N029 4 0 N
Q9 2 N024 N021 0 P
A3 6 4 4 4 4 4 N010 4 SCHMITT Vt=1.27 Vh=5m Trise=1u
Q11 N028 N025 6 0 P
Q12 N028 N026 N023 0 P
R15 6 N023 20K
G3 N025 4 N011 4 500n
G4 N024 4 N027 4 6.5µ
R13 6 N021 11K
D2 4 2 CLP
A5 6 7 6 6 6 6 N026 6 SCHMITT Vt=.7 Vh=1m Vhigh=0 Vlow=-1 Trise=10u
A7 2 4 4 4 4 N019 N027 4 SCHMITT Vt=1.4 Vh=10m Trise=1u
A4 N016 4 N010 4 N019 4 N018 4 AND Trise=50n
D3 6 2 ICG
C5 8 1 5p
R14 N017 4 20
R16 5 N007 1m
G5 4 N002 5 N007 1
R17 N002 4 1K
.model NA NPN(BF=4K Cje=10p Cjc=10p Rb=1 Br=100)
.model FB NPN(Cje=5p Cjc=5p BF=500)
.model P PNP(BF=100)
.model N NPN (BF=100)
.model BG D(Ron=1 Roff=1G Vfwd=1.265)
.model SHD SW(Ron=1 Roff=1G Vt=0.5 -Vh=0.2)
.model CLP D(Ron=100 Roff=10Meg Vrev=1.5)
.model ICG D(Ron=15K Ilimit=7u)
.ends LT1573
