* Copyright © Linear Technology Corp. 2014.  All rights reserved.
*
.subckt LT1575-1.5 1 2 3 4 5 6 7 8
A2 N014 0 N019 N019 N019 N019 5 N019 OTA g=15m iout=1m ref=1.21 Cout=2.8p Vhigh=1e308 Vlow=-1e308
M1 2 N016 6 6 N temp=27
M2 3 N016 6 6 P temp=27
C3 2 6 1p
C4 6 3 1p
D5 N016 6 Y
R2 2 5 2Meg
R3 5 3 2Meg
G5 5 2 5 2 500m dir=1 vto=-990m
G6 3 5 3 5 500m dir=1 vto=-2.5
G3 0 N019 3 0 .5m
G4 0 N019 2 0 .5m
C2 N019 0 .2p Rpar=1K
A1 7 8 3 3 3 3 N003 3 OTA g=1m iout=700u ref=-32m Rout=100k Cout=1p vlow=0 vhigh=1
A3 8 4 3 3 3 3 N006 3 SCHMITT vt=500m vh=0 Rhigh=1G Rlow=100 Cout=100f
D1 N003 7 DSBDB
D2 N009 7 DSBDB
D3 2 N009 D100U
S1 3 N006 N009 3 SQ1
A4 8 3 3 3 3 N011 3 3 SCHMITT vt=1.21 vh=0 trise=100u
S2 3 5 N010 3 SBJT1
A5 3 N001 3 3 N011 3 N010 3 OR trise=10n
C9 N009 3 1p Rpar=50k
C11 8 3 500f
C12 7 3 500f
S4 1 2 N004 3 S15U
A6 N003 3 N006 3 N001 3 N005 3 OR trise=10n
S5 3 1 3 N004 S5U
A7 1 3 3 3 3 3 N001 3 SCHMITT vt=1.16 vh=50m trise=100n
S7 3 N016 N001 3 SBJT2
G8 0 N012 N013 3 1µ
C14 0 N012 6f Rpar=1Meg
G9 0 N014 N012 0 1µ
C15 0 N014 6f Rpar=1Meg
G2 3 N016 5 3 1µ
C1 3 N016 .1f Rpar=1Meg
Q2 5 N003 3 0 NPN1 temp=27
D4 2 3 DBURN1
D6 2 3 DBURN2
A8 2 3 3 3 3 3 ON 3 SCHMITT vt=3 vh=0 trise=10u
A9 3 N005 3 3 ON 3 N004 3 AND trise=10n IC=0
C6 1 3 1p
G1 N012 0 2 3 88p
D7 1 3 DCLMP
C10 4 3 100f
R4 N013 3 7.75862k
R5 4 N013 1.8595k
A10 6 2 3 3 3 3 N006 3 SCHMITT vt=-.99 vh=10m Rout=10k Cout=100f
.model D100U D(Ron=100 Roff=1G vfwd=500m epsilon=500m ilimit=100u)
.model DSBDB D(Ron=100 Roff=1G vfwd=300m epsilon=200m)
.model SBJT1 SW(level=2 Ron=100 Roff=1G vt=500m vh=-200m ilimit=2m)
.model SBJT2 SW(Ron=100 Roff=1G vt=500m vh=-200m)
.model SQ1 SW(Ron=100 Roff=100k vt=700m vh=-300m)
.model DCLMP D(Ron=5k Roff=1G vfwd=1.58 epsilon=500m)
.model S15u SW(level=2 Ron=200 Roff=1G vt=500m vh=-200m ilimit=15u)
.model S5u SW(level=2 Ron=200 Roff=1G vt=-500m vh=-200m ilimit=5u)
.model NPN1 NPN BF=100 BR=1 Is=1e-016 Vaf=1k Var=20 Cjc=.5p Cje=.5p)
.model Y D(Ron=100 Roff=1G Vfwd=.95 epsilon=.1 Vrev=.95 revepsilon=.1 noiseless)
.model N VDMOS(Vto=-150m Kp=80m)
.model P VDMOS(Vto=150m Kp=80m pchan)
.model DBURN1 D(Ron=100 Roff=1G vfwd=1.5 epsilon=500m ilimit=10.5m)
.model DBURN2 D(Ron=8k Roff=1G vfwd=7.5 epsilon=500m ilimit=5m)
.ends LT1575-1.5
*
.subckt LT1575-2.8 1 2 3 4 5 6 7 8
A2 N014 0 N019 N019 N019 N019 5 N019 OTA g=15m iout=1m ref=1.21 Cout=2.8p Vhigh=1e308 Vlow=-1e308
M1 2 N016 6 6 N temp=27
M2 3 N016 6 6 P temp=27
C3 2 6 1p
C4 6 3 1p
D5 N016 6 Y
R2 2 5 2Meg
R3 5 3 2Meg
G5 5 2 5 2 500m dir=1 vto=-990m
G6 3 5 3 5 500m dir=1 vto=-2.5
G3 0 N019 3 0 .5m
G4 0 N019 2 0 .5m
C2 N019 0 .2p Rpar=1K
A1 7 8 3 3 3 3 N003 3 OTA g=1m iout=700u ref=-32m Rout=100k Cout=1p vlow=0 vhigh=1
A3 8 4 3 3 3 3 N006 3 SCHMITT vt=500m vh=0 Rhigh=1G Rlow=100 Cout=100f
D1 N003 7 DSBDB
D2 N009 7 DSBDB
D3 2 N009 D100U
S1 3 N006 N009 3 SQ1
A4 8 3 3 3 3 N011 3 3 SCHMITT vt=1.21 vh=0 trise=100u
S2 3 5 N010 3 SBJT1
A5 3 N001 3 3 N011 3 N010 3 OR trise=10n
C9 N009 3 1p Rpar=50k
C11 8 3 500f
C12 7 3 500f
S4 1 2 N004 3 S15U
A6 N003 3 N006 3 N001 3 N005 3 OR trise=10n
S5 3 1 3 N004 S5U
A7 1 3 3 3 3 3 N001 3 SCHMITT vt=1.16 vh=50m trise=100n
S7 3 N016 N001 3 SBJT2
G8 0 N012 N013 3 1µ
C14 0 N012 6f Rpar=1Meg
G9 0 N014 N012 0 1µ
C15 0 N014 6f Rpar=1Meg
G2 3 N016 5 3 1µ
C1 3 N016 .1f Rpar=1Meg
Q2 5 N003 3 0 NPN1 temp=27
D4 2 3 DBURN1
D6 2 3 DBURN2
A8 2 3 3 3 3 3 ON 3 SCHMITT vt=3 vh=0 trise=10u
A9 3 N005 3 3 ON 3 N004 3 AND trise=10n IC=0
C6 1 3 1p
G1 N012 0 2 3 88p
D7 1 3 DCLMP
C10 4 3 100f
R4 N013 3 4.9308k
R5 4 N013 6.47933k
A10 6 2 3 3 3 3 N006 3 SCHMITT vt=-.99 vh=10m Rout=10k Cout=100f
.model D100U D(Ron=100 Roff=1G vfwd=500m epsilon=500m ilimit=100u)
.model DSBDB D(Ron=100 Roff=1G vfwd=300m epsilon=200m)
.model SBJT1 SW(level=2 Ron=100 Roff=1G vt=500m vh=-200m ilimit=2m)
.model SBJT2 SW(Ron=100 Roff=1G vt=500m vh=-200m)
.model SQ1 SW(Ron=100 Roff=100k vt=700m vh=-300m)
.model DCLMP D(Ron=5k Roff=1G vfwd=1.58 epsilon=500m)
.model S15u SW(level=2 Ron=200 Roff=1G vt=500m vh=-200m ilimit=15u)
.model S5u SW(level=2 Ron=200 Roff=1G vt=-500m vh=-200m ilimit=5u)
.model NPN1 NPN BF=100 BR=1 Is=1e-016 Vaf=1k Var=20 Cjc=.5p Cje=.5p)
.model Y D(Ron=100 Roff=1G Vfwd=.95 epsilon=.1 Vrev=.95 revepsilon=.1 noiseless)
.model N VDMOS(Vto=-150m Kp=80m)
.model P VDMOS(Vto=150m Kp=80m pchan)
.model DBURN1 D(Ron=100 Roff=1G vfwd=1.5 epsilon=500m ilimit=10.5m)
.model DBURN2 D(Ron=8k Roff=1G vfwd=7.5 epsilon=500m ilimit=5m)
.ends LT1575-2.8
*
.subckt LT1575-3.3 1 2 3 4 5 6 7 8
A2 N014 0 N019 N019 N019 N019 5 N019 OTA g=15m iout=1m ref=1.21 Cout=2.8p Vhigh=1e308 Vlow=-1e308
M1 2 N016 6 6 N temp=27
M2 3 N016 6 6 P temp=27
C3 2 6 1p
C4 6 3 1p
D5 N016 6 Y
R2 2 5 2Meg
R3 5 3 2Meg
G5 5 2 5 2 500m dir=1 vto=-990m
G6 3 5 3 5 500m dir=1 vto=-2.5
G3 0 N019 3 0 .5m
G4 0 N019 2 0 .5m
C2 N019 0 .2p Rpar=1K
A1 7 8 3 3 3 3 N003 3 OTA g=1m iout=700u ref=-32m Rout=100k Cout=1p vlow=0 vhigh=1
A3 8 4 3 3 3 3 N006 3 SCHMITT vt=500m vh=0 Rhigh=1G Rlow=100 Cout=100f
D1 N003 7 DSBDB
D2 N009 7 DSBDB
D3 2 N009 D100U
S1 3 N006 N009 3 SQ1
A4 8 3 3 3 3 N011 3 3 SCHMITT vt=1.21 vh=0 trise=100u
S2 3 5 N010 3 SBJT1
A5 3 N001 3 3 N011 3 N010 3 OR trise=10n
C9 N009 3 1p Rpar=50k
C11 8 3 500f
C12 7 3 500f
S4 1 2 N004 3 S15U
A6 N003 3 N006 3 N001 3 N005 3 OR trise=10n
S5 3 1 3 N004 S5U
A7 1 3 3 3 3 3 N001 3 SCHMITT vt=1.16 vh=50m trise=100n
S7 3 N016 N001 3 SBJT2
G8 0 N012 N013 3 1µ
C14 0 N012 6f Rpar=1Meg
G9 0 N014 N012 0 1µ
C15 0 N014 6f Rpar=1Meg
G2 3 N016 5 3 1µ
C1 3 N016 .1f Rpar=1Meg
Q2 5 N003 3 0 NPN1 temp=27
D4 2 3 DBURN1
D6 2 3 DBURN2
A8 2 3 3 3 3 3 ON 3 SCHMITT vt=3 vh=0 trise=10u
A9 3 N005 3 3 ON 3 N004 3 AND trise=10n IC=0
C6 1 3 1p
G1 N012 0 2 3 88p
D7 1 3 DCLMP
C10 4 3 100f
R4 N013 3 5.2105k
R5 4 N013 9k
A10 6 2 3 3 3 3 N006 3 SCHMITT vt=-.99 vh=10m Rout=10k Cout=100f
.model D100U D(Ron=100 Roff=1G vfwd=500m epsilon=500m ilimit=100u)
.model DSBDB D(Ron=100 Roff=1G vfwd=300m epsilon=200m)
.model SBJT1 SW(level=2 Ron=100 Roff=1G vt=500m vh=-200m ilimit=2m)
.model SBJT2 SW(Ron=100 Roff=1G vt=500m vh=-200m)
.model SQ1 SW(Ron=100 Roff=100k vt=700m vh=-300m)
.model DCLMP D(Ron=5k Roff=1G vfwd=1.58 epsilon=500m)
.model S15u SW(level=2 Ron=200 Roff=1G vt=500m vh=-200m ilimit=15u)
.model S5u SW(level=2 Ron=200 Roff=1G vt=-500m vh=-200m ilimit=5u)
.model NPN1 NPN BF=100 BR=1 Is=1e-016 Vaf=1k Var=20 Cjc=.5p Cje=.5p)
.model Y D(Ron=100 Roff=1G Vfwd=.95 epsilon=.1 Vrev=.95 revepsilon=.1 noiseless)
.model N VDMOS(Vto=-150m Kp=80m)
.model P VDMOS(Vto=150m Kp=80m pchan)
.model DBURN1 D(Ron=100 Roff=1G vfwd=1.5 epsilon=500m ilimit=10.5m)
.model DBURN2 D(Ron=8k Roff=1G vfwd=7.5 epsilon=500m ilimit=5m)
.ends LT1575-3.3
*
.subckt LT1575-3.5 1 2 3 4 5 6 7 8
A2 N014 0 N019 N019 N019 N019 5 N019 OTA g=15m iout=1m ref=1.21 Cout=2.8p Vhigh=1e308 Vlow=-1e308
M1 2 N016 6 6 N temp=27
M2 3 N016 6 6 P temp=27
C3 2 6 1p
C4 6 3 1p
D5 N016 6 Y
R2 2 5 2Meg
R3 5 3 2Meg
G5 5 2 5 2 500m dir=1 vto=-990m
G6 3 5 3 5 500m dir=1 vto=-2.5
G3 0 N019 3 0 .5m
G4 0 N019 2 0 .5m
C2 N019 0 .2p Rpar=1K
A1 7 8 3 3 3 3 N003 3 OTA g=1m iout=700u ref=-32m Rout=100k Cout=1p vlow=0 vhigh=1
A3 8 4 3 3 3 3 N006 3 SCHMITT vt=500m vh=0 Rhigh=1G Rlow=100 Cout=100f
D1 N003 7 DSBDB
D2 N009 7 DSBDB
D3 2 N009 D100U
S1 3 N006 N009 3 SQ1
A4 8 3 3 3 3 N011 3 3 SCHMITT vt=1.21 vh=0 trise=100u
S2 3 5 N010 3 SBJT1
A5 3 N001 3 3 N011 3 N010 3 OR trise=10n
C9 N009 3 1p Rpar=50k
C11 8 3 500f
C12 7 3 500f
S4 1 2 N004 3 S15U
A6 N003 3 N006 3 N001 3 N005 3 OR trise=10n
S5 3 1 3 N004 S5U
A7 1 3 3 3 3 3 N001 3 SCHMITT vt=1.16 vh=50m trise=100n
S7 3 N016 N001 3 SBJT2
G8 0 N012 N013 3 1µ
C14 0 N012 6f Rpar=1Meg
G9 0 N014 N012 0 1µ
C15 0 N014 6f Rpar=1Meg
G2 3 N016 5 3 1µ
C1 3 N016 .1f Rpar=1Meg
Q2 5 N003 3 0 NPN1 temp=27
D4 2 3 DBURN1
D6 2 3 DBURN2
A8 2 3 3 3 3 3 ON 3 SCHMITT vt=3 vh=0 trise=10u
A9 3 N005 3 3 ON 3 N004 3 AND trise=10n IC=0
C6 1 3 1p
G1 N012 0 2 3 88p
D7 1 3 DCLMP
C10 4 3 100f
R4 N013 3 5.349345k
R5 4 N013 10.124k
A10 6 2 3 3 3 3 N006 3 SCHMITT vt=-.99 vh=10m Rout=10k Cout=100f
.model D100U D(Ron=100 Roff=1G vfwd=500m epsilon=500m ilimit=100u)
.model DSBDB D(Ron=100 Roff=1G vfwd=300m epsilon=200m)
.model SBJT1 SW(level=2 Ron=100 Roff=1G vt=500m vh=-200m ilimit=2m)
.model SBJT2 SW(Ron=100 Roff=1G vt=500m vh=-200m)
.model SQ1 SW(Ron=100 Roff=100k vt=700m vh=-300m)
.model DCLMP D(Ron=5k Roff=1G vfwd=1.58 epsilon=500m)
.model S15u SW(level=2 Ron=200 Roff=1G vt=500m vh=-200m ilimit=15u)
.model S5u SW(level=2 Ron=200 Roff=1G vt=-500m vh=-200m ilimit=5u)
.model NPN1 NPN BF=100 BR=1 Is=1e-016 Vaf=1k Var=20 Cjc=.5p Cje=.5p)
.model Y D(Ron=100 Roff=1G Vfwd=.95 epsilon=.1 Vrev=.95 revepsilon=.1 noiseless)
.model N VDMOS(Vto=-150m Kp=80m)
.model P VDMOS(Vto=150m Kp=80m pchan)
.model DBURN1 D(Ron=100 Roff=1G vfwd=1.5 epsilon=500m ilimit=10.5m)
.model DBURN2 D(Ron=8k Roff=1G vfwd=7.5 epsilon=500m ilimit=5m)
.ends LT1575-3.5
*
.subckt LT1575-5 1 2 3 4 5 6 7 8
A2 N014 0 N019 N019 N019 N019 5 N019 OTA g=15m iout=1m ref=1.21 Cout=2.8p Vhigh=1e308 Vlow=-1e308
M1 2 N016 6 6 N temp=27
M2 3 N016 6 6 P temp=27
C3 2 6 1p
C4 6 3 1p
D5 N016 6 Y
R2 2 5 2Meg
R3 5 3 2Meg
G5 5 2 5 2 500m dir=1 vto=-990m
G6 3 5 3 5 500m dir=1 vto=-2.5
G3 0 N019 3 0 .5m
G4 0 N019 2 0 .5m
C2 N019 0 .2p Rpar=1K
A1 7 8 3 3 3 3 N003 3 OTA g=1m iout=700u ref=-32m Rout=100k Cout=1p vlow=0 vhigh=1
A3 8 4 3 3 3 3 N006 3 SCHMITT vt=500m vh=0 Rhigh=1G Rlow=100 Cout=100f
D1 N003 7 DSBDB
D2 N009 7 DSBDB
D3 2 N009 D100U
S1 3 N006 N009 3 SQ1
A4 8 3 3 3 3 N011 3 3 SCHMITT vt=1.21 vh=0 trise=100u
S2 3 5 N010 3 SBJT1
A5 3 N001 3 3 N011 3 N010 3 OR trise=10n
C9 N009 3 1p Rpar=50k
C11 8 3 500f
C12 7 3 500f
S4 1 2 N004 3 S15U
A6 N003 3 N006 3 N001 3 N005 3 OR trise=10n
S5 3 1 3 N004 S5U
A7 1 3 3 3 3 3 N001 3 SCHMITT vt=1.16 vh=50m trise=100n
S7 3 N016 N001 3 SBJT2
G8 0 N012 N013 3 1µ
C14 0 N012 6f Rpar=1Meg
G9 0 N014 N012 0 1µ
C15 0 N014 6f Rpar=1Meg
G2 3 N016 5 3 1µ
C1 3 N016 .1f Rpar=1Meg
Q2 5 N003 3 0 NPN1 temp=27
D4 2 3 DBURN1
D6 2 3 DBURN2
A8 2 3 3 3 3 3 ON 3 SCHMITT vt=3 vh=0 trise=10u
A9 3 N005 3 3 ON 3 N004 3 AND trise=10n IC=0
C6 1 3 1p
G1 N012 0 2 3 88p
D7 1 3 DCLMP
C10 4 3 100f
R4 N013 3 6.5963k
R5 4 N013 20.6611k
A10 6 2 3 3 3 3 N006 3 SCHMITT vt=-.99 vh=10m Rout=10k Cout=100f
.model D100U D(Ron=100 Roff=1G vfwd=500m epsilon=500m ilimit=100u)
.model DSBDB D(Ron=100 Roff=1G vfwd=300m epsilon=200m)
.model SBJT1 SW(level=2 Ron=100 Roff=1G vt=500m vh=-200m ilimit=2m)
.model SBJT2 SW(Ron=100 Roff=1G vt=500m vh=-200m)
.model SQ1 SW(Ron=100 Roff=100k vt=700m vh=-300m)
.model DCLMP D(Ron=5k Roff=1G vfwd=1.58 epsilon=500m)
.model S15u SW(level=2 Ron=200 Roff=1G vt=500m vh=-200m ilimit=15u)
.model S5u SW(level=2 Ron=200 Roff=1G vt=-500m vh=-200m ilimit=5u)
.model NPN1 NPN BF=100 BR=1 Is=1e-016 Vaf=1k Var=20 Cjc=.5p Cje=.5p)
.model Y D(Ron=100 Roff=1G Vfwd=.95 epsilon=.1 Vrev=.95 revepsilon=.1 noiseless)
.model N VDMOS(Vto=-150m Kp=80m)
.model P VDMOS(Vto=150m Kp=80m pchan)
.model DBURN1 D(Ron=100 Roff=1G vfwd=1.5 epsilon=500m ilimit=10.5m)
.model DBURN2 D(Ron=8k Roff=1G vfwd=7.5 epsilon=500m ilimit=5m)
.ends LT1575-5
*
.subckt LT1575 1 2 3 4 5 6 7 8
A2 N013 0 N018 N018 N018 N018 5 N018 OTA g=15m iout=1m ref=1.21 Cout=2.8p Vhigh=1e308 Vlow=-1e308
M1 2 N015 6 6 N temp=27
M2 3 N015 6 6 P temp=27
C3 2 6 1p
C4 6 3 1p
D5 N015 6 Y
R2 2 5 2Meg
R3 5 3 2Meg
G5 5 2 5 2 500m dir=1 vto=-990m
G6 3 5 3 5 500m dir=1 vto=-2.5
G3 0 N018 3 0 .5m
G4 0 N018 2 0 .5m
C2 N018 0 .2p Rpar=1K
A1 7 8 3 3 3 3 N003 3 OTA g=1m iout=700u ref=-32m Rout=100k Cout=1p vlow=0 vhigh=1
A3 6 2 3 3 3 3 N006 3 SCHMITT vt=-.99 vh=10m Rout=10k Cout=100f
D1 N003 7 DSBDB
D2 N009 7 DSBDB
D3 2 N009 D100U
S1 3 N006 N009 3 SQ1
A4 8 3 3 3 3 N011 3 3 SCHMITT vt=1.21 vh=0 trise=100u
S2 3 5 N010 3 SBJT1
A5 3 N001 3 3 N011 3 N010 3 OR trise=10n
C9 N009 3 1p Rpar=50k
C11 8 3 500f
C12 7 3 500f
S4 1 2 N004 3 S15U
A6 N003 3 N006 3 N001 3 N005 3 OR trise=10n
S5 3 1 3 N004 S5U
A7 1 3 3 3 3 3 N001 3 SCHMITT vt=1.16 vh=50m trise=100n
S7 3 N015 N001 3 SBJT2
G8 0 N012 4 3 1µ
C14 0 N012 6f Rpar=1Meg
G9 0 N013 N012 0 1µ
C15 0 N013 6f Rpar=1Meg
G2 3 N015 5 3 1µ
C1 3 N015 .1f Rpar=1Meg
Q2 5 N003 3 0 NPN1 temp=27
D4 2 3 DBURN1
D6 2 3 DBURN2
A8 2 3 3 3 3 3 ON 3 SCHMITT vt=3 vh=0 trise=10u
A9 3 N005 3 3 ON 3 N004 3 AND trise=10n IC=0
C6 1 3 1p
G1 N012 0 2 3 88p
D7 1 3 DCLMP
C10 4 3 100f
D8 2 4 DBIAS
.model D100U D(Ron=100 Roff=1G vfwd=500m epsilon=500m ilimit=100u)
.model DSBDB D(Ron=100 Roff=1G vfwd=300m epsilon=200m)
.model SBJT1 SW(level=2 Ron=100 Roff=1G vt=500m vh=-200m ilimit=2m)
.model SBJT2 SW(Ron=100 Roff=1G vt=500m vh=-200m)
.model SQ1 SW(Ron=100 Roff=100k vt=700m vh=-300m)
.model DCLMP D(Ron=5k Roff=1G vfwd=1.58 epsilon=500m)
.model S15u SW(level=2 Ron=200 Roff=1G vt=500m vh=-200m ilimit=15u)
.model S5u SW(level=2 Ron=200 Roff=1G vt=-500m vh=-200m ilimit=5u)
.model NPN1 NPN BF=100 BR=1 Is=1e-016 Vaf=1k Var=20 Cjc=.5p Cje=.5p)
.model DBIAS D(Ron=1k Roff=1G vfwd=2 epsilon=500m ilimit=.6u)
.model Y D(Ron=100 Roff=1G Vfwd=.95 epsilon=.1 Vrev=.95 revepsilon=.1 noiseless)
.model N VDMOS(Vto=-150m Kp=80m)
.model P VDMOS(Vto=150m Kp=80m pchan)
.model DBURN1 D(Ron=100 Roff=1G vfwd=1.5 epsilon=500m ilimit=10.5m)
.model DBURN2 D(Ron=8k Roff=1G vfwd=7.5 epsilon=500m ilimit=5m)
.ends LT1575
