* Copyright © Linear Technology Corp. 2016.  All rights reserved.
*
.subckt LT1764-1.5 1 2 3 4 5
Q1 N007 N005 2 0 PN temp=27
Q2 N005 N010 3 0 NA temp=27
Q3 N010 N004 N012 0 NP temp=27
Q4 N004 N004 N013 0 NP 10 temp=27
R2 N013 3 200
R3 N012 3 175
C2 4 N004 66p
Q5 4 N009 N011 0 FB temp=27
R6 N011 N013 1.36K
R5 1 3 2Meg
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=15u
G2 2 N004 N002 3 50µ
G1 2 N010 N002 3 50µ
R1 2 N005 50K
R8 N007 4 55m
A2 N006 0 N010 N010 N010 N010 3 N010 VARISTOR
D3 0 N006 F
G3 0 N006 4 N007 10m
Q7 N004 N005 N007 0 P .35m
D1 2 4 X
C5 4 3 10p
C7 2 3 10p
G4 0 N006 2 4 table(0 1.9m 8.5 2.7m 20 .5m)
G5 N006 0 N002 3 table(0 3m 1 0)
C1 5 3 1p
C4 2 N004 10n Rser=28Meg Rpar=50Meg
C6 2 N004 150p Rser=18Meg
R4 N009 3 3666
R9 5 N009 875
.model PN PNP(BF=25 Cje=250p Cjc=250p Tf=15n)
.model NA NPN(BF=450K Cje=5p Cjc=5p Re=2)
.model NP NPN(BF=150 Cje=5p Cjc=5p )
.model FB NPN(Cje=10p Cjc=10p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1764-1.5
*
.subckt LT1764-1.8 1 2 3 4 5
Q1 N007 N005 2 0 PN temp=27
Q2 N005 N010 3 0 NA temp=27
Q3 N010 N004 N012 0 NP temp=27
Q4 N004 N004 N013 0 NP 10 temp=27
R2 N013 3 200
R3 N012 3 175
C2 4 N004 66p
Q5 4 N009 N011 0 FB temp=27
R6 N011 N013 1.36K
R5 1 3 2Meg
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=15u
G2 2 N004 N002 3 50µ
G1 2 N010 N002 3 50µ
R1 2 N005 50K
R8 N007 4 55m
A2 N006 0 N010 N010 N010 N010 3 N010 VARISTOR
D3 0 N006 F
G3 0 N006 4 N007 10m
Q7 N004 N005 N007 0 P .35m
D1 2 4 X
C5 4 3 10p
C7 2 3 10p
G4 0 N006 2 4 table(0 1.9m 8.5 2.7m 20 .5m)
G5 N006 0 N002 3 table(0 3m 1 0)
C1 5 3 1p
C4 2 N004 10n Rser=28Meg Rpar=50Meg
C6 2 N004 150p Rser=18Meg
R4 N009 3 3666
R9 5 N009 1.8K
.model PN PNP(BF=25 Cje=250p Cjc=250p Tf=15n)
.model NA NPN(BF=450K Cje=5p Cjc=5p Re=2)
.model NP NPN(BF=150 Cje=5p Cjc=5p )
.model FB NPN(Cje=10p Cjc=10p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1764-1.8
*
.subckt LT1764-2.5 1 2 3 4 5
Q1 N007 N005 2 0 PN temp=27
Q2 N005 N010 3 0 NA temp=27
Q3 N010 N004 N012 0 NP temp=27
Q4 N004 N004 N013 0 NP 10 temp=27
R2 N013 3 200
R3 N012 3 175
C2 4 N004 66p
Q5 4 N009 N011 0 FB temp=27
R6 N011 N013 1.36K
R5 1 3 2Meg
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=15u
G2 2 N004 N002 3 50µ
G1 2 N010 N002 3 50µ
R1 2 N005 50K
R8 N007 4 55m
A2 N006 0 N010 N010 N010 N010 3 N010 VARISTOR
D3 0 N006 F
G3 0 N006 4 N007 10m
Q7 N004 N005 N007 0 P .35m
D1 2 4 X
C5 4 3 10p
C7 2 3 10p
G4 0 N006 2 4 table(0 1.9m 8.5 2.7m 20 .5m)
G5 N006 0 N002 3 table(0 3m 1 0)
C1 5 3 1p
C4 2 N004 10n Rser=28Meg Rpar=50Meg
C6 2 N004 150p Rser=18Meg
R4 N009 3 3666
R9 5 N009 3.89K
.model PN PNP(BF=25 Cje=250p Cjc=250p Tf=15n)
.model NA NPN(BF=450K Cje=5p Cjc=5p Re=2)
.model NP NPN(BF=150 Cje=5p Cjc=5p )
.model FB NPN(Cje=10p Cjc=10p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1764-2.5
*
.subckt LT1764-3.3 1 2 3 4 5
Q1 N007 N005 2 0 PN temp=27
Q2 N005 N010 3 0 NA temp=27
Q3 N010 N004 N012 0 NP temp=27
Q4 N004 N004 N013 0 NP 10 temp=27
R2 N013 3 200
R3 N012 3 175
C2 4 N004 66p
Q5 4 N009 N011 0 FB temp=27
R6 N011 N013 1.36K
R5 1 3 2Meg
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=15u
G2 2 N004 N002 3 50µ
G1 2 N010 N002 3 50µ
R1 2 N005 50K
R8 N007 4 55m
A2 N006 0 N010 N010 N010 N010 3 N010 VARISTOR
D3 0 N006 F
G3 0 N006 4 N007 10m
Q7 N004 N005 N007 0 P .35m
D1 2 4 X
C5 4 3 10p
C7 2 3 10p
G4 0 N006 2 4 table(0 1.9m 8.5 2.7m 20 .5m)
G5 N006 0 N002 3 table(0 3m 1 0)
C1 5 3 1p
C4 2 N004 10n Rser=28Meg Rpar=50Meg
C6 2 N004 150p Rser=18Meg
R4 N009 3 3666
R9 5 N009 6.3K
.model PN PNP(BF=25 Cje=250p Cjc=250p Tf=15n)
.model NA NPN(BF=450K Cje=5p Cjc=5p Re=2)
.model NP NPN(BF=150 Cje=5p Cjc=5p )
.model FB NPN(Cje=10p Cjc=10p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1764-3.3
*
.subckt LT1764 1 2 3 4 5
Q1 N007 N005 2 0 PN temp=27
Q2 N005 N009 3 0 NA
Q3 N009 N004 N011 0 NP temp=27
Q4 N004 N004 N012 0 NP 10 temp=27
R2 N012 3 200
R3 N011 3 175
C2 4 N004 66p
Q5 4 5 N010 0 FB temp=27
R6 N010 N012 1.36K
R5 1 3 2Meg
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=15u
G2 2 N004 N002 3 50µ
G1 2 N009 N002 3 50µ
R1 2 N005 50K
R8 N007 4 55m
A2 N006 0 N009 N009 N009 N009 3 N009 VARISTOR
D3 0 N006 F
G3 0 N006 4 N007 10m
Q7 N004 N005 N007 0 P .35m temp=27
D1 2 4 X
C5 4 3 10p
C7 2 3 10p
G4 0 N006 2 4 table(0 1.9m 8.5 2.7m 20 .5m)
G5 N006 0 N002 3 table(0 3m 1 0)
C1 5 3 1p
C4 2 N004 10n Rser=28Meg Rpar=50Meg
C6 2 N004 150p Rser=18Meg
.model PN PNP(BF=25 Cje=250p Cjc=250p Tf=15n)
.model NA NPN(BF=450K Cje=5p Cjc=5p Re=2)
.model NP NPN(BF=150 Cje=5p Cjc=5p )
.model FB NPN(Cje=10p Cjc=10p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1764
